US08748624B2
STEP A: 2-bromo-N-(4′-chloro-[1,1′-biphenyl]-4-yl)-4-methylbenzamide
4′-chloro-[1,1′-biphenyl]-4-amine (159 mg, 0.78 mmol), 2-bromo-4-methylbenzoic acid (140 mg, 0.65 mmol), EDC (125 mg, 0.65 mmol), HOBt (100 mg, 0.65 mmol), and diisopropylethyl amine (0.22 mL, 1.30 mmol) were dissolved in THF (2.6 mL) and stirred at room temperature. After 3 h the resulting mixture directly purified via column chromatography to yield the title compound.

reactant | 4′-chloro-[1,1′-biphenyl]-4-amine | 0.78 mmol, 159 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
reactant | 2-bromo-4-methylbenzoic acid | 0.65 mmol, 140 mg | BrC1=C(C(=O)O)C=CC(=C1)C | C8H7BrO2
reactant | EDC | 0.65 mmol, 125 mg
reactant | HOBt | 0.65 mmol, 100 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethyl amine | 1.30 mmol, 0.22 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2.6 mL | C1CCOC1 | C4H8O
product | 2-bromo-N-(4′-chloro-[1,1′-biphenyl]-4-yl)-4-methylbenzamide | BrC1=C(C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)Cl)C=CC(=C1)C | C20H15BrClNO
